2166-11-07 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   This morning, complained of persistent back, shoulder discomfort with
   chest tightness.  EKG showed evolving ST changes in anterior leads and
   patient hyperadrenergic with elevated heart rate and blood pressure.
   Started transiently on nitro gtt until pain resolved.  After developed
   marginal blood pressure with SBP in 80s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Clopidogrel 75 mg daily
   ASA 325mg
   Atorvostatin 80mg daily
   Metoprolol 37.5mg TID
   Warfarin 2mg daily
   Senna
   Docusate
   Exelon
   Namenda
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-11-7**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 78 (58 - 78) bpm
   BP: 147/77(95) {100/41(56) - 147/78(95)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    438 mL
                                                                    500 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                     88 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    400 mL
   Urine:
                                                                    550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -112 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD. Oriented x2. Appears anxious.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. S4. No m/r/g. No thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. mild crackles at the bases no
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No venoous stasis changes ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   487 K/uL
   12.6 g/dL
   103 mg/dL
   1.0 mg/dL
   25 mEq/L
   5.0 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   37.9 %
   10.0 K/uL
        [image002.jpg]
                            [**2166-11-6**]  08:26 PM
                            [**2166-11-7**]  03:24 AM
   WBC
   10.0
   Hct
   37.9
   Plt
   406
   487
   Cr
   1.0
   TropT
   1.00
   Glucose
   103
   Other labs: PT / PTT / INR:29.2/29.7/2.9, CK / CKMB /
   Troponin-T:247/17/1.00, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   88 yo M with PMH significant for HTN, h/o stroke [**2156**] and DVT on
   coumadin, dementia presents with STEMI s/p BMS to 80% thrombotic
   mid-LAD lesion.
   .
   # CORONARIES: Pt with anterior STEMI. He was taken to cath and s/p BMS
   to 80% mid LAD lesion. Patient with 80% lesions in ramus and mid RCA
   and a 90% stenosis in a small distal LCx that were not intervened and
   not likely the cause of his CP. TIMI risk score of 5 (12.4% mortality).
   Patient
s recurrent pain concerning for recurrent ischemia, but more
   likely post infarct discomfort
   - ASA 325mg daily
   - cont plavix 75mg daily x 1 year per attending
   - lipitor 80mg daily (LDL 130 per PCP), will also check lipid profile
   - cont BB (will switch to metoprolol 37.5mg TID for easier titration
   during admission given pt was hypertensive)
   - restart lisinopril with holding parameters
   - trend CE
   - TTE in AM
   - monitor on tele
   - morphine, nitro gtt, repeat EKG if pain recurs
   .
   # PUMP: euvolemic on exam
   - TTE in AM
   - restart ACEI
   .
   # RHYTHM: sinus
   - monitor on tele
   .
   # CRI: Admitted with Creatinine of 1.3 from unclear baseline.  Improved
   to 1.0 today.  Likely chronic given history of HTN.
   - restart lisinopril
   - cont to trend Cr
   - avoid nephrotoxins and renally dose meds
   .
   # h/o DVT: pt reports has had multiple DVT and has been on coumadin
   since his stroke in [**2156**]. INR 2.3
   - cont coumadin at current dose
   - monitor INR goal [**12-31**]
   - T&S
   - monitor Hct given pt is now on ASA, plavix and coumadin
   .
   # Dementia: pt at baseline
   - cont home meds
   .
   FEN: Cardiac
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with coumadin
   -Pain management
   -Bowel regimen
   .
   CODE: FULL- confirmed with wife
   .
   COMM: Wife: [**Telephone/Fax (1) 12064**]
   .
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   88 yo M with PMH significant for HTN, h/o stroke [**2156**] and DVT on
   coumadin, dementia presents with STEMI s/p BMS to 80% thrombotic
   mid-LAD lesion. Cath showed and 80% hazy mid LAD lesion that was
   stented with a BMS. Additionally there was an 80% RI and 90% LCx and
   80% mid RCA lesion. He continued to have low grade chest pain overnight
   and is pain free this morning. CK up to 247 thus far. Hct, BUN and
   creat stable
   Medical Decision Making
   88 male here with anterior STEMI aborted with BMS to LAD. Patient has
   lesions in the RCA, RI and LCx which require intervention. Will
   increase Metoprolol to 37.5 [**Hospital1 7**] and ACEI as BP tolerates. He will
   remain on coumadin for h/o DVT/PE. Ok to floor later today. Continue to
   trend enzymes.
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). [**Name (NI) **] and Pride.
   Total time spent on patient care: 40 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 861**] [**Last Name (NamePattern1) **], MD
   on:[**2166-11-7**] 07:59 PM ------